US07977477B2
Thionyl chloride (0.80 ml, 11 mmol) was added dropwise to a suspension of the HCl salt of 1-methyl-piperidine-4-carboxylic acid (1.80 g, 10 mmol) in ethanol (25 ml). The reaction mixture was stirred at ambient temperature overnight, then reduced in vacuo and dried by azeotrope with toluene (×3) to give 1-methyl-piperidine-4-carboxylic acid ethyl ester as a colourless solid (1.7 g, 100%). (LC/MS: Rt 0.41, [M+H]+ 172.08).

reactant | Thionyl chloride | 11 mmol, 0.80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
reactant | 1-methyl-piperidine-4-carboxylic acid | 10 mmol, 1.80 g | CN1CCC(CC1)C(=O)O | C7H13NO2
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | 1-methyl-piperidine-4-carboxylic acid ethyl ester | 1.7 g, 100% | C(C)OC(=O)C1CCN(CC1)C | C9H17NO2
